US06284785B1
d) (RS)-2-(3-Fluoro-phenyl)-pyrrolidine
To a stirred solution of 5-(3-fluoro-phenyl)-3,4-dihydro-2H-pyrrole (1.10 g, 6.74 mmol) in methanol (40 ml) was added at 0° C. sodium borohydride (0.51 g, 13.4 mmol) and the reaction mixture was stirred at RT for 1 h. Then additional sodium borohydride (0.25 g, 6.61 mmol) was added and stirring was continued for 1 h. The mixture was evaporated, dissolved in saturated NaHCO3-solution (70 ml) and extracted with dichloromethane (2×70 ml). The combined organic layers were washed with brine (70 ml), dried (MgSO4) and evaporated. The crude product was purified by column chromatography on silica gel (dichloromethane/MeOH/NH4OH 15:1:0.1) to give the product (0.77 g, 69%) as a colorless oil, MS: m/e=165 (M+).

reactant | 5-(3-fluoro-phenyl)-3,4-dihydro-2H-pyrrole | 6.74 mmol, 1.10 g | FC=1C=C(C=CC1)C=1CCCN1 | C10H10FN
reactant | sodium borohydride | 13.4 mmol, 0.51 g | [BH4-].[Na+]
reactant | sodium borohydride | 6.61 mmol, 0.25 g | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | (RS)-2-(3-Fluoro-phenyl)-pyrrolidine | 0.77 g, 69% | FC=1C=C(C=CC1)C1NCCC1 | C10H12FN
